US07842810B2
2-(6-Methoxy-[1,5]naphthyridin-4-yl)-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene
2-(6-Methoxy-[1,5]naphthyridin-4-yl)-4,5,7,8-tetrahydro-2H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester. To a solution of 4-hydroxymethylene-5-oxo-azepane-1-carboxylic acid tert-butyl ester (500 mg, 2.0 mmol) in THF (7 mL) was added (6-methoxy-[1,5]naphthyridin-4-yl)-hydrazine (480 mg, 2.4 mmol). The reaction was stirred at RT for 4 h. Then p-toluenesulfonic acid (600 mg, 6.0 mmol) was added and the reaction was stirred at RT for an additional 12 h. The reaction was diluted with CH2Cl2 (30 mL) and 1 N NaOH (40 mL). The organic layer was separated and the aqueous layer was extracted with CH2Cl2 (2×20 mL). The combined organic layers were washed with 1 N NaOH (50 mL), brine (30 mL), dried (MgSO4), filtered and concentrated. The residue was purified on SiO2 (60% EtOAc/hexanes) to afford 510 mg (65%) of the title compound as a pale yellow oil. 1H NMR (7:3 mixture of isomers; 500 MHz, CDCl3): 9.25-9.22 (m, 0.7H), 9.14 (s, 0.3H), 8.75 (d, J=5.0, 1H), 8.27-8.12 (m, 2H), 7.19-7.15 (m, 1H), 4.43-4.39 (m, 1H), 4.12 (s, 3H), 3.71-3.57 (m, 2H), 3.05-2.99 (m, 2H), 2.81-2.79 (m, 0.7H), 1.90-1.87 (m, 1.3H), 1.69-1.65 (m, 1H), 1.50 (s, 3H), 1.40 (s, 6H).

reactant | 2-(6-Methoxy-[1,5]naphthyridin-4-yl)-4,5,7,8-tetrahydro-2H-1,2,6-triaza-azulene-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=CN(N=C2CC1)C1=CC=NC2=CC=C(N=C12)OC | C21H25N5O3
reactant | 4-hydroxymethylene-5-oxo-azepane-1-carboxylic acid tert-butyl ester | 2.0 mmol, 500 mg | C(C)(C)(C)OC(=O)N1CCC(C(CC1)=O)=CO | C12H19NO4
reactant | (6-methoxy-[1,5]naphthyridin-4-yl)-hydrazine | 2.4 mmol, 480 mg | COC=1N=C2C(=CC=NC2=CC1)NN | C9H10N4O
reactant | p-toluenesulfonic acid | 6.0 mmol, 600 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | THF | 7 mL | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | NaOH | 1 N, 40 mL | [OH-].[Na+]
product | 2-(6-Methoxy-[1,5]naphthyridin-4-yl)-2,4,5,6,7,8-hexahydro-1,2,6-triaza-azulene | 510 mg, 65% | COC=1N=C2C(=CC=NC2=CC1)N1N=C2CCNCCC2=C1 | C16H17N5O
